US05393755
A mixture of 2-bromo-1-methyl-9-cyclopentylpurin-6-one and 2-chloro-1-methyl-9-cyclopentylpurin-6-one (1.4 g) is mixed with (±) trans-2-aminocyclopentanol (1.2 g, 11 mmol) and triethylamine (1.2 ml) in CH3CN (20 ml) and heated to reflux for 12 hr. The resultant mixture is cooled, concentrated in vacuo, and partitioned between EtOAc/THF 1:1 and brine. The organic layers are concentrated in vacuo and the residue is purified by flash chromatography using 6% EtOH in CH2Cl2 to give 2-(trans-2-hydroxycyclopentylamino)-1-methyl-9-cyclopentylpurin-6-one, a solid (1.4 gm, MS FAB: M+H=318). The 2-(trans-2-hydroxy cyclopentylamino )-1-methyl-9-cyclopentylpurin-6-one (1.3 g, 4.1 mm), triphenylphosphine dibromide (prepared from triphenylphosphine (1.2 g) and bromine (0.2 ml)) in DMF (20 ml) is stirred at room temperature for 18 hr and heated to 70° C. for 12 hr. Dilute NaOH is added to the cooled reaction mixture to adjust the pH to 10, and the resultant solution is extracted with EtOAc/THF 1:1. The organic layer is concentrated in vacuo and purified by flash chromatography using 15% EtOH in CH2Cl2 and recrystallized from CH2Cl2 /hexane, to give the title compound, a solid, mp 194°-195° C.

reactant | 2-bromo-1-methyl-9-cyclopentylpurin-6-one | BrC=1N(C(C=2N=CN(C2N1)C1CCCC1)=O)C | C11H13BrN4O
reactant | 2-chloro-1-methyl-9-cyclopentylpurin-6-one | 1.4 g | ClC=1N(C(C=2N=CN(C2N1)C1CCCC1)=O)C | C11H13ClN4O
reactant | (±) trans-2-aminocyclopentanol | 11 mmol, 1.2 g | N[C@H]1[C@@H](CCC1)O | C5H11NO
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 2-(trans-2-hydroxycyclopentylamino)-1-methyl-9-cyclopentylpurin-6-one | O[C@H]1[C@@H](CCC1)NC=1N(C(C=2N=CN(C2N1)C1CCCC1)=O)C | C16H23N5O2
